US06414145B1
A suspension of E and Z isomers of methyl 4-[2-(4-fluorophenyl)-3-(5-methylimidazol-1-yl)-prop-2-enyl]-2-phenyl-benzoate (2 g; 4.69 mmol) and 10% Pd/C (0.55 g) in MeOH (25 ml) was hydrogenated for 22 hours. After filtration of the catalyst, the solvent was evaporated to give methyl 4-[2-(4-fluorophenyl)-3-(5-methylimidazol-1-yl)-propyl)-2-phenyl-benzoate as an oil which was used in the next step without further purification.

reactant | methyl 4-[2-(4-fluorophenyl)-3-(5-methylimidazol-1-yl)-prop-2-enyl]-2-phenyl-benzoate | 4.69 mmol, 2 g | FC1=CC=C(C=C1)C(CC1=CC(=C(C(=O)OC)C=C1)C1=CC=CC=C1)=CN1C=NC=C1C | C27H23FN2O2
solvent | MeOH | 25 ml | CO | CH4O
catalyst | Pd/C | 0.55 g | [Pd] | Pd
product | methyl 4-[2-(4-fluorophenyl)-3-(5-methylimidazol-1-yl)-propyl)-2-phenyl-benzoate | FC1=CC=C(C=C1)C(CC1=CC(=C(C(=O)OC)C=C1)C1=CC=CC=C1)CN1C=NC=C1C | C27H25FN2O2
